* /home/roshan/esim-workspace/riscv_32/riscv_32.cir

* u2  clk rst net-_u1-pad1_ net-_u1-pad2_ adc_bridge_2
v1  clk gnd pulse(5 0 1m 1m 1m 80 80)
v2  rst gnd pulse(0 5 1m 1m 1m 80 320)
* u3  clk plot_v1
* u4  rst plot_v1
* u5  net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ net-_u1-pad9_ net-_u1-pad10_ 1 2 3 4 5 6 7 8 dac_bridge_8
* u6  net-_u1-pad11_ net-_u1-pad12_ net-_u1-pad13_ net-_u1-pad14_ net-_u1-pad15_ net-_u1-pad16_ net-_u1-pad17_ net-_u1-pad18_ 9 10 11 12 13 14 15 16 dac_bridge_8
* u7  net-_u1-pad19_ net-_u1-pad20_ net-_u1-pad21_ net-_u1-pad22_ net-_u1-pad23_ net-_u1-pad24_ net-_u1-pad25_ net-_u1-pad26_ 17 18 19 20 21 22 23 24 dac_bridge_8
* u8  net-_u1-pad27_ net-_u1-pad28_ net-_u1-pad29_ net-_u1-pad30_ net-_u1-pad31_ net-_u1-pad32_ net-_u1-pad33_ net-_u1-pad34_ 25 26 27 28 29 30 31 32 dac_bridge_8
* u9  1 plot_v1
* u10  2 plot_v1
* u11  3 plot_v1
* u12  4 plot_v1
* u13  5 plot_v1
* u14  6 plot_v1
* u15  7 plot_v1
* u16  8 plot_v1
* u17  9 plot_v1
* u18  10 plot_v1
* u19  11 plot_v1
* u20  12 plot_v1
* u21  13 plot_v1
* u22  14 plot_v1
* u23  15 plot_v1
* u24  16 plot_v1
* u25  17 plot_v1
* u26  18 plot_v1
* u27  19 plot_v1
* u28  20 plot_v1
* u29  21 plot_v1
* u30  22 plot_v1
* u31  23 plot_v1
* u32  24 plot_v1
* u33  24 plot_v1
* u34  25 plot_v1
* u35  26 plot_v1
* u36  27 plot_v1
* u37  28 plot_v1
* u38  29 plot_v1
* u39  30 plot_v1
* u40  31 plot_v1
* u41  32 plot_v1
* u1  net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ net-_u1-pad12_ net-_u1-pad13_ net-_u1-pad14_ net-_u1-pad15_ net-_u1-pad16_ net-_u1-pad17_ net-_u1-pad18_ net-_u1-pad19_ net-_u1-pad20_ net-_u1-pad21_ net-_u1-pad22_ net-_u1-pad23_ net-_u1-pad24_ net-_u1-pad25_ net-_u1-pad26_ net-_u1-pad27_ net-_u1-pad28_ net-_u1-pad29_ net-_u1-pad30_ net-_u1-pad31_ net-_u1-pad32_ net-_u1-pad33_ net-_u1-pad34_ single_cycle_top
a1 [clk rst ] [net-_u1-pad1_ net-_u1-pad2_ ] u2
a2 [net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ net-_u1-pad9_ net-_u1-pad10_ ] [1 2 3 4 5 6 7 8 ] u5
a3 [net-_u1-pad11_ net-_u1-pad12_ net-_u1-pad13_ net-_u1-pad14_ net-_u1-pad15_ net-_u1-pad16_ net-_u1-pad17_ net-_u1-pad18_ ] [9 10 11 12 13 14 15 16 ] u6
a4 [net-_u1-pad19_ net-_u1-pad20_ net-_u1-pad21_ net-_u1-pad22_ net-_u1-pad23_ net-_u1-pad24_ net-_u1-pad25_ net-_u1-pad26_ ] [17 18 19 20 21 22 23 24 ] u7
a5 [net-_u1-pad27_ net-_u1-pad28_ net-_u1-pad29_ net-_u1-pad30_ net-_u1-pad31_ net-_u1-pad32_ net-_u1-pad33_ net-_u1-pad34_ ] [25 26 27 28 29 30 31 32 ] u8
a6 [net-_u1-pad1_ ] [net-_u1-pad2_ ] [net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ net-_u1-pad12_ net-_u1-pad13_ net-_u1-pad14_ net-_u1-pad15_ net-_u1-pad16_ net-_u1-pad17_ net-_u1-pad18_ net-_u1-pad19_ net-_u1-pad20_ net-_u1-pad21_ net-_u1-pad22_ net-_u1-pad23_ net-_u1-pad24_ net-_u1-pad25_ net-_u1-pad26_ net-_u1-pad27_ net-_u1-pad28_ net-_u1-pad29_ net-_u1-pad30_ net-_u1-pad31_ net-_u1-pad32_ net-_u1-pad33_ net-_u1-pad34_ ] u1
* Schematic Name:                             adc_bridge_2, NgSpice Name: adc_bridge
.model u2 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             dac_bridge_8, NgSpice Name: dac_bridge
.model u5 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             dac_bridge_8, NgSpice Name: dac_bridge
.model u6 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             dac_bridge_8, NgSpice Name: dac_bridge
.model u7 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             dac_bridge_8, NgSpice Name: dac_bridge
.model u8 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             single_cycle_top, NgSpice Name: single_cycle_top
.model u1 single_cycle_top(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
.tran 0.1e-00 640e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(clk)
plot v(rst)
plot v(1)
plot v(2)
plot v(3)
plot v(4)
plot v(5)
plot v(6)
plot v(7)
plot v(8)
plot v(9)
plot v(10)
plot v(11)
plot v(12)
plot v(13)
plot v(14)
plot v(15)
plot v(16)
plot v(17)
plot v(18)
plot v(19)
plot v(20)
plot v(21)
plot v(22)
plot v(23)
plot v(24)
plot v(24)
plot v(25)
plot v(26)
plot v(27)
plot v(28)
plot v(29)
plot v(30)
plot v(31)
plot v(32)
.endc
.end
